US06329405B1
(78a) N-[1-(3,4-Dimethylphenyl)ethyl]-N-[(4-methoxyphenyl)-(3-nitrophenyl)methyl]amine
Following a similar procedure to that described in Example (1a), 1.0 g of 4-methoxyphenyl 3-nitrophenyl ketone, 1.44 g of 1-(3,4-dimethylphenyl)ethylamine hydrochloride, 3.25 ml of triethylamine, 0.51 ml of titanium tetrachloride, 1.03 g of sodium cyanoborohydride and 0.33 ml of acetic acid were reacted, to obtain 1.45 g of the title compound as a yellow oil.

reactant | 4-methoxyphenyl 3-nitrophenyl ketone | 1.0 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)C1=CC=C(C=C1)OC | C14H11NO4
reactant | 1-(3,4-dimethylphenyl)ethylamine hydrochloride | 1.44 g | Cl.CC=1C=C(C=CC1C)C(C)N
reactant | triethylamine | 3.25 ml | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 1.03 g | C(#N)[BH3-].[Na+]
catalyst | titanium tetrachloride | 0.51 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | acetic acid | 0.33 ml | C(C)(=O)O | C2H4O2
product | N-[1-(3,4-Dimethylphenyl)ethyl]-N-[(4-methoxyphenyl)-(3-nitrophenyl)methyl]amine | 1.45 g | CC=1C=C(C=CC1C)C(C)NC(C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=C(C=C1)OC | C24H26N2O3
